US06992100B2
1. Preparation of 1-Methoxynaphthalene-2-boronic acid
To a stirred mixture of 1-methoxynaphthalene (20.0 g, 126.6 mmol) in THF (100 mL) was added n-butyllithium (53.16 mL, 132.9 mmol, 2.5M solution in hexanes) at room temperature over 5 min. The reaction mixture was cooled to −50° C., and triisopropyl borate (43.8 mL, 35.7 g, 190 mmol) was added dropwise over 0.25 h. The resulting precipitate was broken up by the addition of THF (100 mL), and the mixture was allowed to warm to 0° C. with stirring. At this point the mixture was poured into 1N HCl (100 mL), the product extracted with ethyl acetate, the combined extracts dried over anhydrous sodium sulfate, and filtered. After concentrating the filtrate in vacuo at ambient temperature, the residue was partially dissolved in diethyl ether, triturated with hexane, and the resulting precipitate filtered and washed with hexane to afford 10.64 g (41%) of the title compound 1-methoxynaphthalene-2-boronic acid as an off-white crystalline solid (MW 202.02, C11H11BO3).

reactant | 1-methoxynaphthalene | 126.6 mmol, 20.0 g | COC1=CC=CC2=CC=CC=C12 | C11H10O
reactant | n-butyllithium | 132.9 mmol, 2.5M, 53.16 mL | C(CCC)[Li]
reactant | triisopropyl borate | 190 mmol, 43.8 mL, 35.7 g | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | HCl | 1N, 100 mL | Cl | ClH
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1-Methoxynaphthalene-2-boronic acid | 10.64 g, 41% | COC1=C(C=CC2=CC=CC=C12)B(O)O | C11H11BO3
